US07361763B2
Step 4: Synthesis of 5-bromo-1-(toluene-4-sulfonyl)-3-[2-(toluene-4-sulfonyl)-2H-pyrazol-3-yl]-1H-pyrrolo[2,3-b]pyridine
To a solution of 5-bromo-3-(2H-pyrazol-3-yl)-1H-pyrrolo[2,3-b]pyridine (1.51 g, 5.75 mmol) in toluene (5 mL) was added tetrabutylammonium hydroxide (40% wt in H2O, 285 uL) and a 50% KOH (aq) solution (5.7 mL). The reaction mixture was stirred for 20 minutes at ambient temperature and para-toluenesulfonylchloride (2.17 g, 11.50 mmol) was added. The reaction was stirred at ambient temperature for 2.5 hours. The product was extracted into ethyl acetate and the organic layer was washed with H2O then dried over Na2SO4. The material was concentrated under vacuum and adsorbed onto silica gel. Purification by flash chromatography on silica gel with a gradient of ethyl acetate and hexane afforded the title compound as a yellow solid (1.73 g, 53% yield). 1H NMR (500 MHz, d6-DMSO) δ 8.68 (s, 1H), 8.57 (d, J=2.5 Hz, 1H), 8.54 (d, J=2.5 Hz, 1H), 8.49 (d, J=2.5 Hz, 1H), 7.96 (d, J=9 Hz, 2H), 7.92 (d, J=8.5 Hz, 2H), 7.47 (d, J=8.5 Hz, 2H), 7.41 (d, J=8 Hz, 2H), 7.29 (d, J=3 Hz, 1H), 2.36 (s, 3H), 2.32 (s, 3H). MS: m/z 570.9/571.9 (M+H+).

reactant | 5-bromo-3-(2H-pyrazol-3-yl)-1H-pyrrolo[2,3-b]pyridine | 5.75 mmol, 1.51 g | BrC=1C=C2C(=NC1)NC=C2C=2NN=CC2 | C10H7BrN4
reactant | tetrabutylammonium hydroxide | 285 uL | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | KOH | [OH-].[K+]
reactant | para-toluenesulfonylchloride | 11.50 mmol, 2.17 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 5-bromo-1-(toluene-4-sulfonyl)-3-[2-(toluene-4-sulfonyl)-2H-pyrazol-3-yl]-1H-pyrrolo[2,3-b]pyridine | 1.73 g, 53% yield | BrC=1C=C2C(=NC1)N(C=C2C=2N(N=CC2)S(=O)(=O)C2=CC=C(C=C2)C)S(=O)(=O)C2=CC=C(C=C2)C | C24H19BrN4O4S2
